US05026700
This methyl 4-(2-methoxycarbonylethylthio)quinoline-2-carboxylate is hydrolyzed by the addition of 3 equivalents of aqueous lM LiOH in MeOH/H20 and stirring at RT. After stirring for 16 hours, the methanol is evaporated, the residue diluted with water and extracted 2x with ethyl acetate. The aqueous layer is acidified to pH 1.5 by the addition of aqueous lN HCl and the solid obtained is filtered, washed with water, and dried to afford 4-(2-carboxyethylthio)quinoline-2-carboxylic acid.

reactant | methyl 4-(2-methoxycarbonylethylthio)quinoline-2-carboxylate | COC(=O)CCSC1=CC(=NC2=CC=CC=C12)C(=O)OC | C15H15NO4S
reactant | LiOH | 3 equivalents | [Li+].[OH-]
solvent | MeOH | CO | CH4O
product | 4-(2-carboxyethylthio)quinoline-2-carboxylic acid | C(=O)(O)CCSC1=CC(=NC2=CC=CC=C12)C(=O)O | C13H11NO4S
